US08119692B2
(2S)-2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)-N-(tetrahydro-2H-pyran-2-yloxy)hexanamide (Intermediate H2)
To a mixture of O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (73.8 mg, 0.63 mmol), HOBT (340 mg, 2.5 mmol), NaHCO3 (423 mg, 2.9 mmol), and the (S)-2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)hexanoic acid in 30 mL DCM was added EDC.HCl (407 mg, 2.1 mmol) as solid. The reaction mixture was stirred for 3 h at room temperature and then the solvent was removed under reduced pressure. The product was isolated by flash column chromatography, eluting with 10% to 60% EtOAc/Hexane gradient solvent to give 128 mg of the title compound.

reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 0.63 mmol, 73.8 mg | O1C(CCCC1)ON | C5H11NO2
reactant | HOBT | 2.5 mmol, 340 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NaHCO3 | 2.9 mmol, 423 mg | C(=O)(O)[O-].[Na+]
reactant | (S)-2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)hexanoic acid | FC1=CC=C(C=C1)[C@@H](C[C@@H](C(=O)O)CCCC)OC | C15H21FO3
reactant | EDC.HCl | 2.1 mmol, 407 mg | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | (2S)-2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)-N-(tetrahydro-2H-pyran-2-yloxy)hexanamide | 128 mg | FC1=CC=C(C=C1)[C@@H](C[C@@H](C(=O)NOC1OCCCC1)CCCC)OC | C20H30FNO4
